US05189054
Scheme I, step d2 : 3-[(p-trifluoromethylphenacyl)amino]-2-carbethoxy-4,6-dichloro-1-(tert-butyloxycarbonyl)-indole
Mix 3-[(p-trifluoromethylphenacyl)amino]-2-carbethoxy-4,6-dichloroindole (1.18 g, 2.6 mmol), di-tert-butyl dicarbonate (610 mg, 2.8 mmol), tetrahydrofuran (25 mL), dimethylaminopyridine (42 mg, 0.3 mmol) and stir at room temperture for 15 minutes. Dilute with ethyl acetate (100 mL), wash with water saturated sodium chloride, dry over magnesium sulfate, filter and concentrate in vacuo. Recrystallize the residue from hot hexane containing some diethyl ether to yield the title compound (1.1 g,77%) as colorless crystals; mp 159°-160° C.

reactant | 3-[(p-trifluoromethylphenacyl)amino]-2-carbethoxy-4,6-dichloroindole | 2.6 mmol, 1.18 g | FC(C1=CC=C(C(CNC2=C(NC3=CC(=CC(=C23)Cl)Cl)C(=O)OCC)=O)C=C1)(F)F | C20H15Cl2F3N2O3
reactant | di-tert-butyl dicarbonate | 2.8 mmol, 610 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
reactant | dimethylaminopyridine | 0.3 mmol, 42 mg | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 3-[(p-trifluoromethylphenacyl)amino]-2-carbethoxy-4,6-dichloro-1-(tert-butyloxycarbonyl)-indole | 1.1 g, 77% | FC(C1=CC=C(C(CNC2=C(N(C3=CC(=CC(=C23)Cl)Cl)C(=O)OC(C)(C)C)C(=O)OCC)=O)C=C1)(F)F | C25H23Cl2F3N2O5
